US08222245B2
1,1-Dimethylethyl 6-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 16) (505 mg, 1.064 mmol) was dissolved in DCM (40 ml) and treated with trifluoroacetic acid (4 ml, 51.9 mmol). The resulting mixture was heated at reflux for 1 hour then evaporated. The resulting residue was partitioned between DCM (20 ml) and 2N NaOH (20 ml). The DCM layer was collected, dried (hydrophobic frit) and evaporated. The free-base was dissolved in 4M HCl in dioxane and evaporated to give the HCl salt, 2-[(1-methylethyl)oxy]-5-[3-(2,3,4,5-tetrahydro-1H-3-benzazepin-6-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride (438 mg, 1.066 mmol, 100% yield) as an off-white powder. δH (400 MHz, CDCl3) 10.15 (1H, br.s), 8.39 (1H, s), 8.33-8.31 (1H, m), 7.75-7.85 (1H, m), 7.45-7.3 (2H, m), 7.14 (1H, d), 4.84-4.76 (1H, m), 3.90-3.30 (8H, m) 1.48 (6H, d); MS (ES) C22H22N4O2 requires 374; found 375 [M+H]+.

reactant | 1,1-Dimethylethyl 6-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.064 mmol, 505 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C | C27H30N4O4
reactant | trifluoroacetic acid | 51.9 mmol, 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-[(1-methylethyl)oxy]-5-[3-(2,3,4,5-tetrahydro-1H-3-benzazepin-6-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride | 1.066 mmol, 438 mg, 100% yield | Cl.CC(C)OC1=C(C#N)C=C(C=C1)C1=NC(=NO1)C1=CC=CC=2CCNCCC21 | InChI=1S/C22H22N4O2.ClH/c1-14(2)27-20-7-6-16(12-17(20)13-23)22-25-21(26-28-22)19-5-3-4-15-8-10-24-11-9-18(15)19;/h3-7,12,14,24H,8-11H2,1-2H3;1H
